US07125870B2
Trifluoromethanesulfonic anhydride (1.5 mL, 8.9 mmol) was slowly added to a solution of methyl 2-oxocyclopentanecarboxylate (1.0 mL, 8.1 mmol) and N,N-diisopropylethylamine (2.2 mL, 13.0 mmol) in methylene chloride (30 mL) under a nitrogen atmosphere at room temperature. The reaction was stirred for 72 h, and then partitioned between methylene chloride and water. The organic layer was washed with 1 N HCl, aqueous NaHCO3, and brine; dried over magnesium sulfate; and concentrated to give an oil. The product was purified by FCC on silica gel eluting ethyl ether:hexane (5:95) to give 2-trifluoromethanesulfonyloxy-cyclopent-1-enecarboxylic acid methyl ester (1.62 g, 73%) as a yellow oil.

reactant | Trifluoromethanesulfonic anhydride | 8.9 mmol, 1.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 2-oxocyclopentanecarboxylate | 8.1 mmol, 1.0 mL | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | N,N-diisopropylethylamine | 13.0 mmol, 2.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-trifluoromethanesulfonyloxy-cyclopent-1-enecarboxylic acid methyl ester | 1.62 g, 73% | COC(=O)C1=C(CCC1)OS(=O)(=O)C(F)(F)F | C8H9F3O5S
